US06265426B1
3-[5-(3-Fluoro-4-methoxy-phenyl)-2-methyl-2H-[1,2,4]triazol-3-yl]-benzaldehyde
Using 3-(3-[1,3]dioxolan-2-yl-phenyl)-5-(3-fluoro-4-methoxy-phenyl)-1H-[1,2,4]triazole (mixture of tautomers) and methyl iodide the title compound was obtained as an orange solid (34% yield), MS: m/e=311.1 (M+).

reactant | 3-(3-[1,3]dioxolan-2-yl-phenyl)-5-(3-fluoro-4-methoxy-phenyl)-1H-[1,2,4]triazole | O1C(OCC1)C=1C=C(C=CC1)C1=NNC(=N1)C1=CC(=C(C=C1)OC)F | C18H16FN3O3
reactant | methyl iodide | CI | CH3I
product | 3-[5-(3-Fluoro-4-methoxy-phenyl)-2-methyl-2H-[1,2,4]triazol-3-yl]-benzaldehyde | FC=1C=C(C=CC1OC)C=1N=C(N(N1)C)C=1C=C(C=O)C=CC1 | C17H14FN3O2
